US03972907
To a solution of 1.7 g. of n-isopropylcyclohexylamine in 15 ml. of tetrahydrofuran, at -78°, is added 5.5 ml. of a 2.4 N n-butyl lithium n-hexane solution. Then 3 g. of ethyl arachidonate in 150 ml. of tetrahydrofuran is added dropwise, over a 2-hour period, at -78°. Then 1.5 ml. of methyl iodide is added and the mixture is allowed to warm to room temperature. The solution is concentrated by evaporating tetrahydrofuran, then extracted with ether to yield ethyl 2-methylarachidonate.

reactant | n-butyl lithium n-hexane | 2.4 N | CCCCCC.C(CCC)[Li]
reactant | ethyl arachidonate | C(CCC\C=C/C\C=C/C\C=C/C\C=C/CCCCC)(=O)OCC | C22H36O2
reactant | methyl iodide | CI | CH3I
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 2-methylarachidonate | CC(C(=O)OCC)CC\C=C/C\C=C/C\C=C/C\C=C/CCCCC | C23H38O2
